US07262185B2
5-nitro-2-pyridinethiol (5.0 g) was dissolved in an aqueous methanol solution (125 ml), and to this solution was added sodium hydroxide (3.84 g) and then, 3-(chloromethyl)pyridine hydrochloride (6.30 g), and the mixture was stirred for 30 minutes. The solvent was removed under reduced pressure, and the obtained residue was added to water and extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over magnesium sulfate. The solvent was removed under reduced pressure, and the obtained residue was purified by silica gel column chromatography, to give 5-nitro-2-[(3-pyridinylmethyl)sulfanyl]pyridine (6.0 g).

reactant | 5-nitro-2-pyridinethiol | 5.0 g | [N+](=O)([O-])C=1C=CC(=NC1)S | C5H4N2O2S
reactant | sodium hydroxide | 3.84 g | [OH-].[Na+]
reactant | 3-(chloromethyl)pyridine hydrochloride | 6.30 g | Cl.ClCC=1C=NC=CC1
solvent | methanol | 125 ml | CO | CH4O
product | 5-nitro-2-[(3-pyridinylmethyl)sulfanyl]pyridine | 6.0 g | [N+](=O)([O-])C=1C=CC(=NC1)SCC=1C=NC=CC1 | C11H9N3O2S
